US08808703B2
Step 2: tert-butyl 1-((3-(diethoxyphosphoryl)propoxy)methyl)cyclopropylcarbamate
To a solution of tert-butyl 1-(hydroxymethyl)cyclopropylcarbamate (1 eq, from the previous step) in THF (0.1 M) at room temperature was added KOH (5 eq), tetrabutylammonium bromide (0.1 eq), and diethyl 3-bromopropylphosphonate (2 eq). The reaction was stirred at room temperature overnight. The mixture was concentrated en vaccuo and then taken up in DCM/water. The aqueous layer was extracted with DCM (2×). The combined organic layers were dried over anhydrous MgSO4, and concentrated en vaccuo. The crude mixture was purified by flash chromatography on a COMBIFLASH® system (ISCO) using a gradient of 0-100% ethyl acetate in hexanes and then 100% ethyl acetate to give the product as an oil.

reactant | tert-butyl 1-(hydroxymethyl)cyclopropylcarbamate | OCC1(CC1)NC(OC(C)(C)C)=O | C9H17NO3
reactant | KOH | 5 eq | [OH-].[K+]
reactant | diethyl 3-bromopropylphosphonate | 2 eq | BrCCCP(OCC)(OCC)=O | C7H16BrO3P
solvent | THF | 0.1 M | C1CCOC1 | C4H8O
catalyst | tetrabutylammonium bromide | 0.1 eq | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | tert-butyl 1-((3-(diethoxyphosphoryl)propoxy)methyl)cyclopropylcarbamate | C(C)OP(=O)(OCC)CCCOCC1(CC1)NC(OC(C)(C)C)=O | C16H32NO6P
